US20010049385A1
2-Phenoxymethyl-2,3-dihydropyran-4-one (2.30 g, 11.3 mmol) was dissolved in ethyl acetate (150 ml). 10% Palladium on charcoal (400 mg) was added. The reaction mixture was hydrogenated until the reaction stopped. The catalyst was removed by filtration through a glas-filter. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (200 g), using ethyl acetate/heptane 1:1 as eluent, to give 1.36 g of 2-phenoxymethyltetrahydropyran-4-one.

reactant | 2-Phenoxymethyl-2,3-dihydropyran-4-one | 11.3 mmol, 2.30 g | O(C1=CC=CC=C1)CC1OC=CC(C1)=O | C12H12O3
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
catalyst | Palladium on charcoal | 400 mg | [Pd] | Pd
product | 2-phenoxymethyltetrahydropyran-4-one | 1.36 g | O(C1=CC=CC=C1)CC1OCCC(C1)=O | C12H14O3
